US07319099B2
(d) 5-Cyclopropanesulfonyl-2-hydroxy-benzoic acid methyl ester
To 7.2 mmol 5-cyclopropanesulfonyl-2-hydroxy-benzoic acid in 20 ml dichloroethane containing a few drops of DMF was added dropwise 8.7 mmol oxalyl chloride. After stirring for 90 min at RT, the reaction mixture was cooled to 0° C. and then 144 mmol methanol was added, followed by 72 mmol pyridine, and stirring continued at RT for 1 h. The mixture was then washed with 1 M aq HCl, dried with Na2SO4, and concentrated in vacuo. The residue was chromatographed on silica gel (eluant: ethyl acetate/heptane gradient) to afford the title compound. MS (m/e): 255.2 ([M−H]−, 100%)

reactant | 5-cyclopropanesulfonyl-2-hydroxy-benzoic acid | 7.2 mmol | C1(CC1)S(=O)(=O)C=1C=CC(=C(C(=O)O)C1)O | C10H10O5S
reactant | oxalyl chloride | 8.7 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methanol | 144 mmol | CO | CH4O
reactant | pyridine | 72 mmol | N1=CC=CC=C1 | C5H5N
catalyst | dichloroethane | 20 ml | ClC(C)Cl | C2H4Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-Cyclopropanesulfonyl-2-hydroxy-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)S(=O)(=O)C1CC1)O)=O | C11H12O5S
